US04565693
In this method, the zinc carbonate is added to an aqueous solution of glycine. The CO2 is liberated and the solution is evaporated to dryness or spray dried to obtain white crystals of zinc glycinate. This method does not require the addition of a precipitating agent such as ethanol or sodium hydroxide as in the first two methods explained above, rendering it a more commercially viable method (less costly and more direct).

reactant | zinc carbonate | C([O-])([O-])=O.[Zn+2]
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | CO2 | C(=O)=O | CO2
product | zinc glycinate | NCC(=O)[O-].[Zn+2].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Zn/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
